US04431643
Sulfuryl chloride (235 ml.) was dropwise added over 20 minutes with stirring and ice-cooling to a solution of ethyl, 2-methoxyiminoacetoacetate (syn isomer) (500 g.) in acetic acid (500 ml.), and the mixture was stirred overnight under cooling with water. Nitrogen gas was introduced to the reaction mixture for 2 hours, and the resulting mixture was poured into water (2.5 l). After extracting with methylene chloride (500 ml.) and twice with methylene chloride (200 ml.), the extracts were combined. The combined extracts were washed with a saturated aqueous solution of sodium chloride, and adjusted to pH 6.5 by adding water (800 ml.) and sodium bicarbonate. Methylene chloride layer was separated, washed with an aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off to give ethyl 2-methoxyimino-4-chloroacetoacetate (syn isomer) (559 g.).

reactant | Sulfuryl chloride | 235 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-methoxyiminoacetoacetate | 500 g | CON=C(C(=O)[O-])C(=O)C
reactant | water | O | H2O
reactant | water | 2.5 l | O | H2O
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-methoxyimino-4-chloroacetoacetate | 559 g | CON=C(C(=O)OCC)C(=O)CCl | C7H10ClNO4
